US07285563B2
8-Fluoroisoquinoline
2-Fluoro-6-[(trimethylsilyl)ethynyl]benzaldehyde Description 40; 10.38 g, 47.1 mmol) was dissolved in 2M ammonia in methanol (235 ml, 471 mmol) in a Parr flask and the resulting mixture heated at 80° C. with shaking on a Parr apparatus (ca. 35 psi achieved). The reaction was cooled and the solvents evaporated. The residue was purified by column chromatography on silica eluting with a gradient from neat dichloromethane to 2% methanol in dichloromethane to give the title compound (4.0 g, 58%).

reactant | 2-Fluoro-6-[(trimethylsilyl)ethynyl]benzaldehyde | FC1=C(C=O)C(=CC=C1)C#C[Si](C)(C)C | C12H13FOSi
reactant | methanol | 471 mmol, 235 ml | CO | CH4O
reactant | ammonia | 2M | N | H3N
product | 8-Fluoroisoquinoline | 4.0 g, 58% | FC=1C=CC=C2C=CN=CC12 | C9H6FN
